US06573293B2
2,4-Dimethyl-5-(2-oxo-5-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
5-Phenyl-1,3-dihydroindol-2-one (80 mg, 0.4 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (0.1 g) using method B to give 79 mg (46%) of the title compound.

reactant | 5-Phenyl-1,3-dihydroindol-2-one | 0.4 mmol, 80 mg | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 0.1 g | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 2,4-Dimethyl-5-(2-oxo-5-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 79 mg, 46% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O)C)CC | C28H32N4O2
